US08193199B2
A solution of 1-(8-chloro-2-(2-methylpyridin-3-yl)quinolin-3-yl)ethanol (1.1090 g, 3.712 mmol) in chloroform (12.37 mL, 3.712 mmol) was treated with thionyl chloride (1.350 mL, 18.56 mmol) dropwise, and the reaction mixture was stirred at room temperature. After 3 h, the mixture was concentrated under reduced pressure and co-evaporated three times with CH2Cl2 to give 8-chloro-3-(1-chloroethyl)-2-(2-methylpyridin-3-yl)quinoline hydrochloride as an off-white syrupy solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 9.04 (1H, s), 8.94 (1H, dd, J=5.7, 1.4 Hz), 8.56 (1H, d, J=7.4 Hz), 8.19 (1H, dd, J=8.2, 1.2 Hz), 8.07 (1H, dd, J=7.4, 1.2 Hz), 8.02 (1H, dd, J=7.6, 5.7 Hz), 7.71-7.77 (1H, m), 5.25 (1H, d, J=6.3 Hz), 2.52 (3H, s), 1.92 (3H, d, J=6.7 Hz); LC-MS (ESI) m/z 317.0 [M+H]+ (Exact Mass of neutral form: 316.053). The crude product was carried on crude without purification for the next step.

reactant | 1-(8-chloro-2-(2-methylpyridin-3-yl)quinolin-3-yl)ethanol | 3.712 mmol, 1.1090 g | ClC=1C=CC=C2C=C(C(=NC12)C=1C(=NC=CC1)C)C(C)O | C17H15ClN2O
reactant | chloroform | 3.712 mmol, 12.37 mL | C(Cl)(Cl)Cl | CHCl3
reactant | thionyl chloride | 18.56 mmol, 1.350 mL | S(=O)(Cl)Cl | Cl2OS
product | 8-chloro-3-(1-chloroethyl)-2-(2-methylpyridin-3-yl)quinoline hydrochloride | Cl.ClC=1C=CC=C2C=C(C(=NC12)C=1C(=NC=CC1)C)C(C)Cl | InChI=1S/C17H14Cl2N2.ClH/c1-10(18)14-9-12-5-3-7-15(19)16(12)21-17(14)13-6-4-8-20-11(13)2;/h3-10H,1-2H3;1H
